US07585874B2
2-(5-Methyl-3-phenyl-isoxazol-4-yl)-6-pyrrol-1-yl-imidazo[1,2-a]pyridine
As described for Example 60, 6-iodo-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine (80 mg, 0.2 mmol) was converted, using pyrrole instead of benzamide, to the title compound (5 mg, 7%) which was obtained as a light yellow solid. MS: m/e=341.3 [M+H]+.

reactant | 6-iodo-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine | 0.2 mmol, 80 mg | IC=1C=CC=2N(C1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2 | C17H12IN3O
reactant | pyrrole | N1C=CC=C1 | C4H5N
product | 2-(5-Methyl-3-phenyl-isoxazol-4-yl)-6-pyrrol-1-yl-imidazo[1,2-a]pyridine | 5 mg, 7% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=C(C=C2)N2C=CC=C2)C1 | C21H16N4O
